US06288096B1
5-([4-[2-(3-Methanesulfonyloxyphenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
2 g (84 mmole) 5-(4-[2-(3-methanesulfonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione was hydrogenated in 200 ml ethyl acetate and 10 ml acetic acid in the presence of Pd/C (10%) at atmospheric pressure over night. The catalyst was filtered off and the solvent was evaporated in vacuo. The residue was crystallized in ethanol to give 1.18 g (yield 59%) of the desired product.

reactant | 5-(4-[2-(3-methanesulfonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 84 mmole, 2 g | CS(=O)(=O)OC=1C=C(C=CC1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C19H17NO6S2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 5-([4-[2-(3-Methanesulfonyloxyphenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 1.18 g, yield 59% | CS(=O)(=O)OC=1C=C(C=CC1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C19H19NO6S2
